US09303012B2
b) 3-tert-Butoxycarbonyl-1,1-dioxo-1,3-thiazolidine-4-carboxylic acid
A solution of O3-tert-butyl O4-methyl 1,1-dioxo-1,3-thiazolidine-3,4-dicarboxylate (Example 127 a, 0.35 g, 1.25 mmol) and lithium hydroxide hydrate (63.1 mg, 1.5 mmol) in THF (3.5 mL) and water (1.05 mL) was stirred for 20 h at ambient temperature. The reaction mixture was poured onto ice/0.1N HCl (25 mL) and extracted with EtOAc (2×25 mL). The combined extracts were washed with ice/brine (1×25 mL), dried over Na2SO4 and filtered. The solvent was removed under reduced pressure to give the title compound (306 mg, 92%) as colorless foam, MS (ESI) m/e=264.05 [M−H−].

reactant | O3-tert-butyl O4-methyl 1,1-dioxo-1,3-thiazolidine-3,4-dicarboxylate | O=S1(CN(C(C1)C(=O)OC)C(=O)OC(C)(C)C)=O | C10H17NO6S
reactant | lithium hydroxide hydrate | 1.5 mmol, 63.1 mg | O.[OH-].[Li+]
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | water | 1.05 mL | O | H2O
product | 3-tert-Butoxycarbonyl-1,1-dioxo-1,3-thiazolidine-4-carboxylic acid | 306 mg, 92% | C(C)(C)(C)OC(=O)N1CS(CC1C(=O)O)(=O)=O | C9H15NO6S
